US07432289B2
N-(4′-{[(Cyclopropylmethyl)amino]carbonyl}-6-methyl-1,1′-biphenyl-3-yl)cyclobutanecarboxamide was prepared from 5′-amino-N-(cyclopropylmethyl)-2′-methyl-1,1′-biphenyl-4-carboxamide and cyclobutanecarboxylic acid using method D. NMR; δH [2H6]—DMSO 9.71,(1H, s), 8.61,(1H, t), 7.91,(2H, d), 7.52-7.49,(2H, m), 7.40,(2H, d), 7.21,(1H, d), 3.21-3.14,(3H, m), 2.24-2.15,(5H, m), 2.07,(2H, m), 1.91, (1H, m), 1.78,(1H, m), 1.04,(1H, m), 0.43,(2H, m), 0.24,(2H, m). LCMS: retention time 3.30 min, MH+363.

reactant | 5′-amino-N-(cyclopropylmethyl)-2′-methyl-1,1′-biphenyl-4-carboxamide | NC=1C=CC(=C(C1)C1=CC=C(C=C1)C(=O)NCC1CC1)C | C18H20N2O
reactant | cyclobutanecarboxylic acid | C1(CCC1)C(=O)O | C5H8O2
product | N-(4′-{[(Cyclopropylmethyl)amino]carbonyl}-6-methyl-1,1′-biphenyl-3-yl)cyclobutanecarboxamide | C1(CC1)CNC(=O)C1=CC=C(C=C1)C1=CC(=CC=C1C)NC(=O)C1CCC1 | C23H26N2O2
